US07205306B2
5-Bromo-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-(1-ethylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dibromo-1-(1-ethylpropyl)-2(1H)-pyrazinone and 5,7-dichloroindoline as the starting materials. mp 158–160° C.; 1H NMR (300 MHz, CDCl3): 7.18 (d, J=1.8 Hz, 1 H), 7.11 (d, J=2.2 Hz, 1 H), 6.85 (s, 1 H), 4.80–4.75 (m, 1 H), 4.34 (t, J=8.1 Hz, 2 H), 3.13 (t, J=8.1 Hz, 2 H), 1.88–1.74 (m, 2 H), 1.70–1.60 (m, 2 H), 0.88 (t, J=7.3 Hz, 6 H); HRMS (ESI) calcd for C17H19N3OBrCl2 (M+H)+: 430.0089; found m/z 430.0109.

reactant | 3,5-dibromo-1-(1-ethylpropyl)-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)C(CC)CC)=O | C9H12Br2N2O
reactant | 5,7-dichloroindoline | ClC=1C=C2CCNC2=C(C1)Cl | C8H7Cl2N
product | 5-Bromo-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-(1-ethylpropyl)-2(1H)-pyrazinone | BrC=1N=C(C(N(C1)C(CC)CC)=O)N1CCC2=CC(=CC(=C12)Cl)Cl | C17H18BrCl2N3O
